US08669271B2
4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine (2.37 g) and di-tert-butyl dicarbonate (1.83 g) in tetrahydrofuran (25 mL) is stirred for 4 h at room temperature. The solvent is evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 90:10→40:60) to give the title compound. TLC: rf=0.40 (silica gel, cyclohexane/ethyl acetate 4:1); Mass spectrum (ESI+): m/z=382, 384 [M+H]+

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine | 2.37 g | BrC=1C=CC2=C(CC(O2)C2CCNCC2)C1 | C13H16BrNO
reactant | di-tert-butyl dicarbonate | 1.83 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C18H24BrNO3
